US07211572B2
To a solution of 7-amino-9-benzyloxy-2-(3-chloro-4-fluorobenzyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (29 mg) in chloroform (0.6 ml) were added pyridine (0.0082 ml) and isobutyryl chloride (0.01 ml) at 0° C., and the mixture was stirred at room temperature for 1.5 hr. 5% Aqueous potassium hydrogen sulfate solution was added and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was dried, concentrated and purified by silica gel thin layer chromatography (chloroform:methanol=10:1) to give N-[9-benzyloxy-2-(3-chloro-4-fluorobenzyl)-1,8-dioxo-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazin-7-yl]isobutyramide (29 mg).

reactant | 7-amino-9-benzyloxy-2-(3-chloro-4-fluorobenzyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 29 mg | NC=1C(C(=C2N(CCN(C2=O)CC2=CC(=C(C=C2)F)Cl)C1)OCC1=CC=CC=C1)=O | C22H19ClFN3O3
reactant | pyridine | 0.0082 ml | N1=CC=CC=C1 | C5H5N
reactant | isobutyryl chloride | 0.01 ml | C(C(C)C)(=O)Cl | C4H7ClO
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | chloroform | 0.6 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[9-benzyloxy-2-(3-chloro-4-fluorobenzyl)-1,8-dioxo-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazin-7-yl]isobutyramide | 29 mg | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(CC2)CC2=CC(=C(C=C2)F)Cl)=O)NC(C(C)C)=O)=O | C26H25ClFN3O4
